US07001897B2
(3R)-3-hydroxypyrrolidine hydrochloride (15 g, 121.4 mmol) was dissolved in tetrahydrofuran (450 ml), and ethoxycarbonyl isothiocyanate (15.7 ml) was added thereto in an ice bath. The mixture solution was brought to room temperature in 10 minutes and then stirred overnight. After checking the completion of the reaction, the reaction mixture was partitioned between ethyl acetate and saturated aqueous sodium chloride solution. The organic layer was dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure. The residue was recrystallized from a mixture of ethyl acetate and n-hexane to afford [(3R)-3-hydroxypyrrolidine-1-carbothioyl]carbamic acid ethyl ester (24.62 g, yield 93%) as a yellow crystal.

reactant | (3R)-3-hydroxypyrrolidine hydrochloride | 121.4 mmol, 15 g | Cl.O[C@H]1CNCC1
reactant | ethoxycarbonyl isothiocyanate | 15.7 ml | C(C)OC(=O)N=C=S | C4H5NO2S
solvent | tetrahydrofuran | 450 ml | O1CCCC1 | C4H8O
product | [(3R)-3-hydroxypyrrolidine-1-carbothioyl]carbamic acid ethyl ester | 24.62 g, yield 93% | C(C)OC(NC(=S)N1C[C@@H](CC1)O)=O | C8H14N2O3S
